US04032322
A mixture of 12.8 g of N'-(4-cyano-3-isopropyl-5-isothiazolyl)-N,N-dimethylchloroformamidine, 2.9 g of potassium fluoride and a catalytic amount of 2,3,11,12 -dibenzo-1,4,7,10,13,16-hexaoxacyclooctadeca-2,11-diene, in 60 ml of acetonitrile was stirred at ambient temperature for 12 hours. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was recrystallized from diethyl ether to give 2.5 grams of N'-(4-cyano-3-isopropyl-5-isothiazolyl)-N,N-dimethylfluoroformamidine, mp 100°-102°. The nmr and ir spectra were consistent with the assigned structure.

reactant | N'-(4-cyano-3-isopropyl-5-isothiazolyl)-N,N-dimethylchloroformamidine | 12.8 g | C(#N)C=1C(=NSC1N=C(N(C)C)Cl)C(C)C | C10H13ClN4S
reactant | potassium fluoride | 2.9 g | [F-].[K+]
reactant | 2,3,11,12 -dibenzo-1,4,7,10,13,16-hexaoxacyclooctadeca-2,11-diene | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | N'-(4-cyano-3-isopropyl-5-isothiazolyl)-N,N-dimethylfluoroformamidine | 2.5 grams | C(#N)C=1C(=NSC1N=C(N(C)C)F)C(C)C | C10H13FN4S
